US07834039B2
To a slurry of (R)-4-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)benzoic acid (0.303 g, 1.203 mmol) in DMF (1.367 ml) was added EDC (0.231 g, 1.203 mmol) followed by HOBT hydrate (0.163 g, 1.203 mmol). After about 1.5 h a solution of (Z)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide (0.250 g, 1.09 mmol) in DMF (1.367 ml) was added. The reaction mixture was heated to about 140° C. for about 2 hrs. After cooling to room temperature the reaction mixture was concentrated in vacuo and purified by chromatography on silica gel (eluting with EtOAc/Hep) to provide (R)-3-(3-chloro-4-isopropoxyphenyl)-5-(4-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)phenyl)-1,2,4-oxadiazole (0.339 g, 70%) as a colorless solid. LCMS (Table 1, Method c) Rt=3.36 min, m/z 445 (M+H)+.

reactant | (R)-4-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)benzoic acid | 1.203 mmol, 0.303 g | CC1(OC[C@H](O1)COC1=CC=C(C(=O)O)C=C1)C | C13H16O5
reactant | EDC | 1.203 mmol, 0.231 g
reactant | HOBT hydrate | 1.203 mmol, 0.163 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | (Z)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide | 1.09 mmol, 0.250 g | ClC=1C=C(/C(/N)=N/O)C=CC1OC(C)C | C10H13ClN2O2
solvent | DMF | 1.367 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.367 ml | CN(C)C=O | C3H7NO
product | (R)-3-(3-chloro-4-isopropoxyphenyl)-5-(4-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)phenyl)-1,2,4-oxadiazole | 0.339 g, 70% | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C=C1)OC[C@H]1OC(OC1)(C)C | C23H25ClN2O5
